US06740662B1
To a dichloroethane solution of 3-(3-bromobenzoyl)-2-ethylamino-6-methylpyridine were added p-toluenesulfonyl chloride, (1-ethoxycarbonylpiperidin-4-yl)acetic acid and 4-dimethylaminopyridine, followed by stirring at 80° C. for 12 hours. Ethanol and sodium methoxide were added to the product obtained by working up the reaction mixture, and the whole was heated under reflux for 1 hour. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain 4-(3-bromophenyl)-3-(1-ethoxycarbonylpiperidin-4-yl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one as a pale brown solid. MS: 498.

reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | 3-(3-bromobenzoyl)-2-ethylamino-6-methylpyridine | BrC=1C=C(C(=O)C=2C(=NC(=CC2)C)NCC)C=CC1 | C15H15BrN2O
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (1-ethoxycarbonylpiperidin-4-yl)acetic acid | C(C)OC(=O)N1CCC(CC1)CC(=O)O | C10H17NO4
reactant | sodium methoxide | C[O-].[Na+]
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Ethanol | C(C)O | C2H6O
product | 4-(3-bromophenyl)-3-(1-ethoxycarbonylpiperidin-4-yl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one | BrC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)C1CCN(CC1)C(=O)OCC | C25H28BrN3O3
